### PR TITLE
feat(Geometry/Euclidean/Similarity): Add Triangle similarity on oangle

### PR DESCRIPTION
**Pull request by wangying11123**
Add theorems about triangles similarity on oangle

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Similarity.lean [hunk 1]
```diff
@@ -143,3 +148,160 @@ theorem _root_.Similar.angle_eq_all (h : ![a, b, c] ∼ ![a', b', c']) :
...
+  rw [← neg_eq_iff_eq_neg] at h₁ h₂
+  have h_not_col2: ¬ Collinear ℝ ({a', b', c'} : Set P₂) := by
+    rwa [← oangle_eq_zero_or_eq_pi_iff_collinear, ← h₁, ← EuclideanGeometry.oangle_rev,
+      EuclideanGeometry.oangle_eq_zero_iff_oangle_rev_eq_zero,
+      EuclideanGeometry.oangle_eq_pi_iff_oangle_rev_eq_pi, oangle_eq_zero_or_eq_pi_iff_collinear]
+  apply similar_of_angle_angle h_not_col
+  · rw [EuclideanGeometry.angle_eq_abs_oangle_toReal (ne₁₂_of_not_collinear h_not_col)
+      (ne₂₃_of_not_collinear h_not_col).symm, EuclideanGeometry.angle_eq_abs_oangle_toReal
+      (ne₁₂_of_not_collinear h_not_col2) (ne₂₃_of_not_collinear h_not_col2).symm, ← h₁]
+    simp only [Real.Angle.abs_toReal_neg]
```
Comment (LLaurance) [inline Mathlib/Geometry/Euclidean/Similarity.lean]: Note terminal `simp` calls are preferred not to be replaced with squeezed versions https://leanprover-community.github.io/contribute/style.html#squeezing-simp-calls

File: Mathlib/Geometry/Euclidean/Similarity.lean [hunk 2]
```diff
@@ -143,3 +148,160 @@ theorem _root_.Similar.angle_eq_all (h : ![a, b, c] ∼ ![a', b', c']) :
...
+  have h1 := h.angle_eq
+  have h_1 := EuclideanGeometry.oangle_eq_angle_or_eq_neg_angle (ne₁₂_of_not_collinear h_not_col)
+    (ne₂₃_of_not_collinear h_not_col).symm
+  have h_2 := EuclideanGeometry.oangle_eq_angle_or_eq_neg_angle (ne₁₂_of_not_collinear h_not_col')
+    (ne₂₃_of_not_collinear h_not_col').symm
+  rcases h_1 with h₁ | h₁ <;> rcases h_2 with h₂ | h₂
+  · left; rw [h₁, h₂, h1]
+  · right; rw [h₁, h₂, h1, neg_neg]
+  · right; rw [h₁, h₂, h1]
+  · left; rw [h₁, h₂, h1]
```
Comment (LLaurance) [inline Mathlib/Geometry/Euclidean/Similarity.lean]:
```suggestion
  have h_1 := EuclideanGeometry.oangle_eq_angle_or_eq_neg_angle (ne₁₂_of_not_collinear h_not_col)
    (ne₂₃_of_not_collinear h_not_col).symm
  have h_2 := EuclideanGeometry.oangle_eq_angle_or_eq_neg_angle (ne₁₂_of_not_collinear h_not_col')
    (ne₂₃_of_not_collinear h_not_col').symm
  rcases h_1 with h₁ | h₁ <;> rcases h_2 with h₂ | h₂
  all_goals simp [h₁, h₂, h.angle_eq]
```

File: Mathlib/Geometry/Euclidean/Similarity.lean (hunk 1 above)
Comment (wangying11123) [reply Mathlib/Geometry/Euclidean/Similarity.lean]: fixed

File: Mathlib/Geometry/Euclidean/Similarity.lean [hunk 3]
```diff
@@ -143,3 +143,156 @@ theorem _root_.Similar.angle_eq_all (h : ![a, b, c] ∼ ![a', b', c']) :
...
+  refine similar_of_side_angle_side h_not_col h_not_col' ?_ hd
+  rw [EuclideanGeometry.angle_eq_abs_oangle_toReal (ne₁₂_of_not_collinear h_not_col)
+    (ne₂₃_of_not_collinear h_not_col).symm, EuclideanGeometry.angle_eq_abs_oangle_toReal
+    (ne₁₂_of_not_collinear h_not_col') (ne₂₃_of_not_collinear h_not_col').symm, h,
+    Real.Angle.abs_toReal_neg]
+
+/-- For two similar triangles, the corresponding oangles are equal or contrary. -/
+theorem _root_.Similar.oangle_eq_or_neg (h : ![a, b, c] ∼ ![a', b', c'])
+    (h_not_col : ¬ Collinear ℝ {a, b, c}) (h_not_col' : ¬ Collinear ℝ {a', b', c'}) :
+    ∡ a b c = ∡ a' b' c' ∨ ∡ a b c = -∡ a' b' c' := by
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Similarity.lean:221]: Does this actually need the "not collinear" hypotheses? I'd expect it to be true even for triples of collinear points.

File: Mathlib/Geometry/Euclidean/Similarity.lean [hunk 4]
```diff
@@ -143,3 +143,156 @@ theorem _root_.Similar.angle_eq_all (h : ![a, b, c] ∼ ![a', b', c']) :
...
+  have h_2 := EuclideanGeometry.oangle_eq_angle_or_eq_neg_angle (ne₁₂_of_not_collinear h_not_col')
+    (ne₂₃_of_not_collinear h_not_col').symm
+  rcases h_1 with h₁ | h₁ <;> rcases h_2 with h₂ | h₂
+  all_goals simp [h₁, h₂, h.angle_eq]
+
+/-- In two similar triangles, all three corresponding oangles are equal if the signs are equal. -/
+theorem _root_.Similar.oangle_eq_all_if_sign_eq (h : ![a, b, c] ∼ ![a', b', c'])
+    (h_not_col : ¬ Collinear ℝ {a, b, c}) (h_not_col' : ¬ Collinear ℝ {a', b', c'})
+    (h₁ : (∡ a b c).sign = (∡ a' b' c').sign) :
+    ∡ a b c = ∡ a' b' c' ∧ ∡ b c a = ∡ b' c' a' ∧ ∡ c a b = ∡ c' a' b' := by
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Similarity.lean:233]: Likewise, this shouldn't need "not collinear", and `of` not `if` is the naming convention.

File: Mathlib/Geometry/Euclidean/Similarity.lean [hunk 5]
```diff
@@ -143,3 +143,156 @@ theorem _root_.Similar.angle_eq_all (h : ![a, b, c] ∼ ![a', b', c']) :
...
+        oangle_sign_eq_zero_iff_collinear, h_bca'] at h₂
+  have h3 : ∡ c a b = ∡ c' a' b' := by grind only
+  refine ⟨h1, h2, h3⟩
+
+/-- In two similar triangles, all three corresponding oangles are contrary if the signs are
+contrary. -/
+theorem _root_.Similar.oangle_neg_all_if_sign_neg (h : ![a, b, c] ∼ ![a', b', c'])
+    (h_not_col : ¬ Collinear ℝ {a, b, c}) (h_not_col' : ¬ Collinear ℝ {a', b', c'})
+    (h₁ : (∡ a b c).sign = -(∡ a' b' c').sign) :
+    ∡ a b c = -∡ a' b' c' ∧ ∡ b c a = -∡ b' c' a' ∧ ∡ c a b = -∡ c' a' b' := by
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Similarity.lean:267]: The same comments apply here as well.
